US06884868B1
A solution of 4-fluorobenzoic acid ethyl ester (3 g), cis-2,6-dimethylmorpholine (2.26 g) and potassium carbonate (2.47 g) in dimethylsulfoxide (60 ml) was stirred for 18 hours at 80° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (5:1 hexane-ethyl acetate elution) to give 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid ethyl ester (555 mg).

reactant | 4-fluorobenzoic acid ethyl ester | 3 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | cis-2,6-dimethylmorpholine | 2.26 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | potassium carbonate | 2.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(cis-2,6-dimethylmorpholin-4-yl)benzoic acid ethyl ester | 555 mg | C(C)OC(C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C)=O | C15H21NO3
